US06060038
A solution of 3-iodo-5-nitrobenzyl fluoride (9.2 g, 32.7 mmol) described in Step C, in methanol (311 mL) was treated with TiCl3 (311 mL, >10 wt. % in 20-30 wt % HCl) and stirred at room temperature for 20 minutes. The reaction was poured into a separatory funnel containing 95:5 CH2Cl2 :MeOH and the aqueous layer was made basic with 15% aq. NaOH. The layers were separated and the aqueous layer was extracted with 95:5 CH2Cl2 :MeOH. The organic layers were combined, dried (MgSO4), filtered and concentrated to give an orange semi-solid. Purification by flash chromatography (3:1 to 1:1 hexane:methylene chloride) provided 3-amino-5-iodobenzyl fluoride as a tan solid: mp 48.5-50° C.

reactant | 3-iodo-5-nitrobenzyl fluoride | 32.7 mmol, 9.2 g | IC=1C=C(CF)C=C(C1)[N+](=O)[O-] | C7H5FINO2
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | NaOH | [OH-].[Na+]
solvent | methanol | 311 mL | CO | CH4O
product | 3-amino-5-iodobenzyl fluoride | NC=1C=C(CF)C=C(C1)I | C7H7FIN
